US08492549B2
2-[1-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-pyrrolidin-3-ylmethoxy]-ethanol
To a solution containing 50 mg (0.19 mmol) of [1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-pyrrolidin-3-yl]-methanol in dichloromethane (1.5 mL), 1.5 mL of cold aqueous NaOH-solution (50%, w/w) and 6 mg (0.02 mmol) of tert-butylammonium bromide were added at 0° C. The reaction mixture was stirred for ½ h at 0° C. After adding 28 μL (0.19 mmol) of tert-butylbromoacetate the stirring was continued for 3 h at 10° C. Subsequent addition of water (10 mL) and dichloromethane (40 mL) was followed by stirring the mixture for additional 10 min at room temperature. The phases were separated, and the organic phase was washed with 5% NaHCO3 (1×20 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to dryness. The crude product was dried under high vacuum and redissolved in dry tetrahydrofuran (4 mL) and reduced with 15 mg (0.40 mmol) of LiAlH4 using the same procedure as above. The crude product was purified by column chromatography (silica gel, methanol/triethylamine/ethyl acetate, 1:1:99).

reactant | [1-(2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-pyrrolidin-3-yl]-methanol | 0.19 mmol, 50 mg | O1C(COC2=C1C=CC=C2)CN2CC(CC2)CO | C14H19NO3
reactant | tert-butylammonium bromide | 0.02 mmol, 6 mg | [Br-].C(C)(C)(C)[NH3+]
reactant | tert-butylbromoacetate | 0.19 mmol, 28 μL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | LiAlH4 | 0.40 mmol, 15 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
solvent | NaOH | 1.5 mL | [OH-].[Na+]
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 2-[1-(2,3-Dihydro-benzo[1,4]dioxin-2-ylmethyl)-pyrrolidin-3-ylmethoxy]-ethanol | O1C(COC2=C1C=CC=C2)CN2CC(CC2)COCCO | C16H23NO4
